US08871782B2
2-(Ethoxymethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.3 mmol) was slurried in dichloromethane (13 mL). Acetic anhydride (0.122 mL, 1.3 mmol) was added dropwise to the slurry and the mixture was stirred for 36 hours. Saturated aqueous sodium carbonate (5 mL) was added and the reaction was stirred for 1 hour. The layers were separated and the organic fraction was purified by chromatography on a HORIZON BPFC system (silica gel, gradient elution with 1-22% CMA in chloroform). The resulting amorphous solid was triturated with boiling acetonitrile. Filtration afforded 0.270 g of 7-[(1-acetylpiperidin-4-yl)oxy]-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as an off-white solid, mp 178-179.5° C.

reactant | 2-(Ethoxymethyl)-7-(piperidin-4-yloxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.3 mmol, 0.500 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)OC2CCNCC2)N)N1)CCC | C21H29N5O2
reactant | Acetic anhydride | 1.3 mmol, 0.122 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 13 mL | ClCCl | CH2Cl2
product | 7-[(1-acetylpiperidin-4-yl)oxy]-2-(ethoxymethyl)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.270 g | C(C)(=O)N1CCC(CC1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCC)COCC | C23H31N5O3
